US07361678B2
To a stirred solution of 3-hydroxybenzaldehyde (20 mmol) in DMSO (50 mL) at rt, solid Cs2CO3 (60 mmol) was added. 1-(2-chloroethyl)pyrrolidine hydrochloride (30 mmol) was added to the reaction mixture and heated to 90° C. for 9 h. After cooling to rt, the reaction was quenched by cold H2O (50 mL), and the resulting mixture was extracted with EtOAc (3×100 mL). The combined EtOAc extracts were washed with brine (3×50 mL) and dried (anhydrous Na2SO4). The solvent was removed in vacuo to afford crude 3-(2-pyrrolidin-1-yl-ethoxy)benzaldehyde.

reactant | 3-hydroxybenzaldehyde | 20 mmol | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | Cs2CO3 | 60 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | 30 mmol | Cl.ClCCN1CCCC1
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 3-(2-pyrrolidin-1-yl-ethoxy)benzaldehyde | N1(CCCC1)CCOC=1C=C(C=O)C=CC1 | C13H17NO2
